US07326790B2
Commercially available (Aldrich Chemical Co.) 2-vinylaniline can be dissolved in dichloromethane containing triethylamine and can be treated at 0° C. with dichloroacetyl chloride to yield 2.2-dichloro-N-(3-vinylphenyl)acetamide.

reactant | 2-vinylaniline | C(=C)C1=C(N)C=CC=C1 | C8H9N
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | dichloroacetyl chloride | ClC(C(=O)Cl)Cl | C2HCl3O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2.2-dichloro-N-(3-vinylphenyl)acetamide | ClC(C(=O)NC1=CC(=CC=C1)C=C)Cl | C10H9Cl2NO
